US04595531
A solution of 1 g of 8-chloro-1-methyl-3-hydroxy-6-phenyl-1,2,3,4-tetrahydro-1,5-benzodiazocine in 50 ml benzene was heated under reflux for 1 hour with 1 ml thionylchloride. The solution was reacted with a few drops of triethylamine, washed with water and concentrated by evaporation to dryness in a vacuum. The residue was dissolved in isopropanol and reacted with an ether solution of hydrogen chloride. There was obtained 7-chloro-1-methyl-2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride. The product was also identical with the product obtained in Example 10 of application Ser. No. 335,986; m.p. 110°-112° C.

reactant | 8-chloro-1-methyl-3-hydroxy-6-phenyl-1,2,3,4-tetrahydro-1,5-benzodiazocine | 1 g | ClC=1C=CC2=C(C(=NCC(CN2C)O)C2=CC=CC=C2)C1 | C17H17ClN2O
reactant | thionylchloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
product | 7-chloro-1-methyl-2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride | Cl.ClC=1C=CC2=C(C(=NCC(N2C)CCl)C2=CC=CC=C2)C1 | InChI=1S/C17H16Cl2N2.ClH/c1-21-14(10-18)11-20-17(12-5-3-2-4-6-12)15-9-13(19)7-8-16(15)21;/h2-9,14H,10-11H2,1H3;1H
